US07825254B2
3-Fluoro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol
Following the procedure for the preparation of 4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol but substituting 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine provided the title compound. MS: (M+H m/z=270.1).

reactant | 4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
reactant | 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C)F | C22H18FN3O
product | 3-Fluoro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol | FC=1C=C(C=CC1C1=NN(C=C1C1=CC=NC=C1)C)O | C15H12FN3O
